US07776847B2
To a solution of 4-iodobenzoic acid (210 mg, 0.8 mmol) in methylene chloride (2 mL), diethyl cyanophosphonate (120 μL, 0.8 mmol) and 4-methylmorpholine (172 μL, 1.6 mmol) were added at room temperature and allowed to stir for 15 min. A solution of 3-(3-aminopropylamino)-N-tert-butylbenzo[d]isothiazole-4-sulfonamide (243 mg, 0.7 mmol) in methylene chloride (4 mL) was then added and the resulting reaction mixture was allowed to stir overnight. The reaction mixture with diluted with methylene chloride (20 mL), washed with 10% HCl aqueous solution and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Purification by column chromatography, on silica gel, eluting with 1:1 ethyl acetate:hexanes, followed by 7:3 ethyl acetate:hexanes provided N-(3-(4-(N-tert-butylsulfamoyl)benzo[d]isothiazol-3-ylamino)propyl)-4-iodobenzamide (365 mg) as a yellow foam. 1H NMR (300 MHz, CDCl3): 8.01 (dd, 1H), 7.96 (dd, 1H), 7.80 (d, 2H), 7.59 (d, 2H), 7.43-7.49 (m, 2H), 6.10 (t, 1H), 4.98 (s, 1H), 3.71 (dd, 2H), 3.59 (dd, 2H), 1.92-2.00 (m, 2H), 1.25 ppm (s, 9H). MW=572 confirmed by LC-MS, tr=13.85 min (Method Y) MH+=573.

reactant | 4-iodobenzoic acid | 0.8 mmol, 210 mg | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | diethyl cyanophosphonate | 0.8 mmol, 120 μL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | 4-methylmorpholine | 1.6 mmol, 172 μL | CN1CCOCC1 | C5H11NO
reactant | 3-(3-aminopropylamino)-N-tert-butylbenzo[d]isothiazole-4-sulfonamide | 0.7 mmol, 243 mg | NCCCNC1=NSC=2C1=C(C=CC2)S(=O)(=O)NC(C)(C)C | C14H22N4O2S2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(4-(N-tert-butylsulfamoyl)benzo[d]isothiazol-3-ylamino)propyl)-4-iodobenzamide | 365 mg | C(C)(C)(C)NS(=O)(=O)C1=CC=CC2=C1C(=NS2)NCCCNC(C2=CC=C(C=C2)I)=O | C21H25IN4O3S2
